US06423688B1
Synthesis of N-(Toluene-4-sulfonyl)-L-prolyl-O-benzyl-L-serine
N-(Toluene-4-sulfonyl)-L-proline hydrate was coupled to O-benzylserine methyl ester hydrochloride using the procedure described in Method 3. The title compound was prepared via hydrolysis of the methyl ester using LiOH in THF/water.

reactant | N-(Toluene-4-sulfonyl)-L-proline hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)O)CCC1)C
reactant | O-benzylserine methyl ester hydrochloride | Cl.COC([C@@H](N)COCC1=CC=CC=C1)=O
reactant | LiOH | [Li+].[OH-]
solvent | THF water | C1CCOC1.O
product | N-(Toluene-4-sulfonyl)-L-prolyl-O-benzyl-L-serine | C1(=CC=C(C=C1)S(=O)(=O)N1[C@H](C(=O)N[C@@H](COCC2=CC=CC=C2)C(=O)O)CCC1)C | C22H26N2O6S
